US04150129
The solution of 15.1 g of 3-acetonyl-4-(3,4-dimethoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone, 25.5 ml of isopropylamine 10 ml of 5.8 N methanolic hydrogen chloride and 3.4 g of sodium cyanoborohydride in 260 ml of methanol is refluxed for 3 days. The mixture is cooled, acidified to pH=1 with concentrated hydrochloric acid, evaporated and the residue diluted with water. It is washed with ether, basified with 3 N aqueous sodium hydroxide to pH=11 and extracted with diethyl ether. The extract is dried, evaporated and the residue dissolved in 75 ml of acetone. The solution is treated with 4.4 N ethanolic hydrogen chloride, and the precipitate collected, to yield the 3-(2-isopropylaminopropyl)-4-(3,4-dimethoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone hydrochloride monohydrate melting at 135°-138°.

reactant | 3-acetonyl-4-(3,4-dimethoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone | 15.1 g | C(C(=O)C)C=1C(NCCCC1C1=CC(=C(C=C1)OC)OC)=O | C17H21NO4
reactant | isopropylamine | 25.5 ml | C(C)(C)N | C3H9N
reactant | hydrogen chloride | 5.8 N | Cl | ClH
reactant | sodium cyanoborohydride | 3.4 g | C(#N)[BH3-].[Na+]
solvent | methanol | 260 ml | CO | CH4O
product | 3-(2-isopropylaminopropyl)-4-(3,4-dimethoxyphenyl)-1,5,6,7-tetrahydro-2H-azepinone hydrochloride monohydrate | O.Cl.C(C)(C)NC(CC=1C(NCCCC1C1=CC(=C(C=C1)OC)OC)=O)C | InChI=1S/C20H30N2O3.ClH.H2O/c1-13(2)22-14(3)11-17-16(7-6-10-21-20(17)23)15-8-9-18(24-4)19(12-15)25-5;;/h8-9,12-14,22H,6-7,10-11H2,1-5H3,(H,21,23);1H;1H2
